US06818643B1
A solution of triphenylphosphine (0.885 g, 3.37 mmol) in methylene chloride (5 mL) was added to a solution of yield 1,7-diphenyl-4-hydroxymethylheptane (0.666 g, 2.36 mmol) and carbon tetrabromide (1.10 g, 3.33 mmol) in methylene chloride (10 mL) at 0° C. under nitrogen. After 16 h, the solvent was removed under reduced pressure and the residue was purified by silica gel chromatography, eluting with methylene chloride/hexanes (5% to 10%) to provide 4-bromomethyl-1,7-diphenylheptane (0.723 g, o9%). 1H NMR (300 MHz, CDCl3): δ 1.45 (m, 4 H), 1.63 (m, 5 H), 2.62 (t, 4 H, J=7.6), 3.46 (d, 2 H, J=4.7), 7.25 (m, 10 H).

reactant | triphenylphosphine | 3.37 mmol, 0.885 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,7-diphenyl-4-hydroxymethylheptane | 2.36 mmol, 0.666 g | C1(=CC=CC=C1)CCCC(CCCC1=CC=CC=C1)CO | C20H26O
reactant | carbon tetrabromide | 3.33 mmol, 1.10 g | C(Br)(Br)(Br)Br | CBr4
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-bromomethyl-1,7-diphenylheptane | 0.723 g | BrCC(CCCC1=CC=CC=C1)CCCC1=CC=CC=C1 | C20H25Br
